US07700641B2
Synthesis of 1′-(3-chloropropyl)spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one
Following the procedure described in EXAMPLE 10.47, and making non-critical variations using spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one to replace 4′-bromospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one, and 1-bromo-3-chloropropane to replace 2-(bromomethyl)-5-(trifluoromethyl)furan, the title compound was obtained (22%) as a colorless solid: mp 144-146° C.; 1H NMR (300 MHz, CDCl3) δ 7.31 (dt, 1H), 7.14-7.12 (m, 2H), 7.01(t, 1H), 6.65 (s, 1H), 6.23 (s, 1H), 5.89 (s, 2H), 4.68 (ABq, 2H), 3.85-3.79 (m, 2H), 3.67 (t, 2H), 2.06 (t, 1H); 13C NMR (75 MHz, DMSO-d6) δ 177.2, 155.8, 148.7, 142.9, 142.2, 132.4, 129.3, 124.1, 123.3, 120.3, 109.3, 103.6, 101.7, 80.3, 57.8, 43.4, 30.6; MS(ES+) m/z 358.2 (M+1).

reactant | spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | N1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C16H11NO4
reactant | 4′-bromospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | BrC1=C2C3(C(NC2=CC=C1)=O)COC=1C3=CC3=C(OCO3)C1 | C16H10BrNO4
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
reactant | 2-(bromomethyl)-5-(trifluoromethyl)furan | BrCC=1OC(=CC1)C(F)(F)F | C6H4BrF3O
product | 1′-(3-chloropropyl)spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | ClCCCN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C19H16ClNO4
